US06399629B1
Compound M60: (2S,4R)-4-(2-Aminoacetamido)-N-[(1R)-3-methyl-1-[(4-chlorphenylthio)methyl]butyl]-2-pyrrolidinecarboxamide
This corpound was prepared as for Compound M48, replacing N-tert-butoxycarbonyl-D-homophenylalaine with N-tert-butoxycarbonyl-D-leucine, 2-hydroxyquinoline with 4-chlorothiophenol and trans-4-(N-tert-butoxycarbonylaminomethyl)-N-tert-butoxycarbonyl-D-proline with trans-4-(N-tert-butoxycarbonylglycyl)amino-N-tert-butoxycarbonyl-L-proline.

reactant | N-tert-butoxycarbonyl-D-leucine | C(C)(C)(C)OC(=O)N[C@H](CC(C)C)C(=O)O | C11H21NO4
reactant | 2-hydroxyquinoline | OC1=NC2=CC=CC=C2C=C1 | C9H7NO
reactant | 4-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | trans-4-(N-tert-butoxycarbonylaminomethyl)-N-tert-butoxycarbonyl-D-proline | C(C)(C)(C)OC(=O)NC[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C16H28N2O6
reactant | trans-4-(N-tert-butoxycarbonylglycyl)amino-N-tert-butoxycarbonyl-L-proline | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H29N3O7
product | (2S,4R)-4-(2-Aminoacetamido)-N-[(1R)-3-methyl-1-[(4-chlorphenylthio)methyl]butyl]-2-pyrrolidinecarboxamide | NCC(=O)N[C@@H]1C[C@H](NC1)C(=O)N[C@H](CC(C)C)CSC1=CC=C(C=C1)Cl | C19H29ClN4O2S
